US07423144B2
A mixture of 6-chloroadenosine (1 g, 3.5 mmol) and hydrazine monohydrate (5 mL) in MeOH (10 mL) was stirred at 50° C. for 1 hr. The reaction mixture was allowed to cool to room temperature and was then concentrated in vacuo to provide a crude residue which was suspended in MeOH and (10 mL) and stirred at room temperature. The solid product that separated out from the suspension was filtered, washed with MeOH and dried in vacuo to provide N6-hydrazinoadenosine (970 mg) which was used without further purification.

reactant | 6-chloroadenosine | 3.5 mmol, 1 g | ClC1(C2=NCN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2=NC=N1)N | C10H14ClN5O4
reactant | hydrazine monohydrate | 5 mL | O.NN
solvent | MeOH | 10 mL | CO | CH4O
product | N6-hydrazinoadenosine | 970 mg | N(N)NC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C10H15N7O4
